US07335658B2
6-[4-(2,5-DIFLUOROBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 3, making variations only as required to use 2,5-difluorobenzoyl chloride in place of isoxazole-5-carbonyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)-amide, the title compound was obtained as a white powder (53% yield). 1H NMR (400 MHz, CDCl3) δ 8.08, 8.0, 7.17-7.11, 7.03, 4.02-3.92, 3.85-3.83, 3.59-3.5, 1.52, 0.74-0.69, 0.46-0.40, 0.09-0.04.

reactant | 2,5-difluorobenzoyl chloride | FC1=C(C(=O)Cl)C=C(C=C1)F | C7H3ClF2O
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)-amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(2,5-DIFLUOROBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC(=C1)F)F)=O | C21H23F2N5O2
